Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Azithromycin / Codeine / Sulfa (Sulfonamide 
Antibiotics) / cephalexin / macrolides & ketolides 
 
Attending: ___.
 
Chief Complaint:
DKA
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
___ female past medical history of type 1 diabetes on
insulin pump, normal pressure hydrocephalus status post shunt
placement, and hypertension who presents with hyperglycemia and
nausea/vomiting.  She woke this morning felt weak, and nauseous,
and a little disoriented.  She missed her sugars were 4 561 at 8
AM.  She tried giving herself a correctional dose of NovoLog but
the pump was flashing ___ and so unclear if it was ever
administered.  She retook her sugar level 45 minutes later and 
it
was 540.  Her sugars are normally very well controlled, and her
last A1c was 6.3 in ___.  She vomited once shortly
before arrival to ED (describes it as yellow with speckles of
red).  She feels very thirsty, but no increased urination.  She
denies chest pain/shortness of breath/bowel pain/upper
respiratory tract symptoms/dizziness/headache.  She is followed
by ___ at ___. 

In the ED,  
- Initial Vitals:  98.2 108/62 113 19 97% RA 
- Exam: Notable for ___ systolic murmur at the left sternal
border, abdomen nontender, nondistended.
- Labs:  ___ 02:35PM BLOOD WBC: 10.1* RBC: 3.83* Hgb: 10.6*
Hct: 33.4* MCV: 87 MCH: 27.7 MCHC: 31.7* RDW: 14.0 RDWSD: 44.___ 
___ 02:35PM BLOOD Glucose: 634* UreaN: 38* Creat: 1.2* Na:
126* K: 6.4* Cl: 83* HCO3: 11* AnGap: 32* 
___ 02:35PM BLOOD Calcium: 9.6 Phos: 5.1* Mg: 2.2 
___ 02:00PM BLOOD Lactate: 2.3* 
-Imaging: chest x-ray without cardioPulmonary abnormality
-Consults:  ___
-Interventions: Zofran 4 mg IV, insulin regular 10 units sc, 1 L
NS 

On arrival to the ICU, the patient confirms the above history. 
She denies any fever/chills/cough/shortness of breath/chest
pain/abdominal pain/dysuria.  No increased urinary frequency.  
No
diarrhea/constipation/myalgia/arthralgia.

She has no other sick contacts.  She is overall been feeling 
well
prior to this morning.

Her main symptom is feeling tired this morning.
  
ROS: Positives as per HPI; otherwise negative.  

 
Past Medical History:
-stroke in the corona radiata extending into the anterior limb 
of the internal capsule on the right on ___. At that time, 
pt presented with dysarthria, hiccups, dysphagia, left facial 
droop and typing errors with the left hand. She does not think 
that she had any numbness or weakness at that time. 
-insulin dependent diabetes mellitus diagnosed ___, 
complications include diabetic retinopathy, on insulin pump 
-macular degeneration 
-HTN
-Hyperlipidemia
-depression
-iron deficiency anemia
-osteopenia
-normal pressure hydrocephalus s/p Right Metronic Strata VPS
placement on ___
-Allergic rhinitis
-Chest pain
-deviated nasal septum 
-hyponatremia
-obstructive sleep apnea
-R shoulder pain
-vitiligo 
 
Social History:
___
Family History:
Father and paternal aunt DM.
No known history of neurologic disease.

 
Physical Exam:
ADMISSION PHYSICAL EXAM 
======================== 
VS: Reviewed in metavision 
GENERAL: Alert and interactive. In no acute distress.  
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.  
NECK: No cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
BACK: No spinous process tenderness. No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. Cap refill <2s. No rash.  
NEUROLOGIC: No gross/focal deficits 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 02:35PM BLOOD WBC-10.1* RBC-3.83* Hgb-10.6* Hct-33.4* 
MCV-87 MCH-27.7 MCHC-31.7* RDW-14.0 RDWSD-44.7 Plt ___
___ 02:35PM BLOOD Neuts-88.9* Lymphs-5.0* Monos-5.3 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-8.96* AbsLymp-0.50* 
AbsMono-0.53 AbsEos-0.00* AbsBaso-0.03
___ 02:30PM BLOOD Glucose-633* UreaN-39* Creat-1.2* Na-126* 
K-6.8* Cl-86* HCO3-8* AnGap-32*
___ 04:06AM BLOOD ALT-29 AST-23 LD(LDH)-156 AlkPhos-59 
TotBili-0.3
___ 02:30PM BLOOD Calcium-9.6 Phos-4.9* Mg-2.2
___ 01:50PM BLOOD %HbA1c-6.6* eAG-143*
___ 05:13PM BLOOD ___ pO2-55* pCO2-37 pH-7.26* 
calTCO2-17* Base XS--9
___ 02:00PM BLOOD Lactate-2.3*

IMAGING:
========
CXR ___
FINDINGS:  
Heart size is normal.  The mediastinal and hilar contours are 
normal. The 
pulmonary vasculature is normal. Lungs are clear.  No pleural 
effusion or 
pneumothorax is seen. There are no acute osseous abnormalities.  
Right-sided VP shunt catheter is re-demonstrated. 
IMPRESSION:  
No acute cardiopulmonary abnormality. 

Discharge Labs:

___ 07:40AM BLOOD WBC-5.5 RBC-3.69* Hgb-10.3* Hct-31.3* 
MCV-85 MCH-27.9 MCHC-32.9 RDW-13.8 RDWSD-42.6 Plt ___
___ 07:40AM BLOOD Glucose-428* UreaN-15 Creat-0.7 Na-135 
K-4.8 Cl-97 HCO3-25 AnGap-13
___ 02:35PM BLOOD %HbA1c-6.7* eAG-146*
___ 09:04PM BLOOD Lactate-1.___RIEF FICU COURSE:
==================
Ms. ___ is a ___ female past medical history of type 1 
diabetes
admitted to the ICU with DKA in the setting of insulin pump 
malfunction. 
She was briefly placed on an insulin drip until her glucose 
level was lower and her anion gap closed, and then she was 
transitioned to subcutaneous insulin within a day. 

FLOOR COURSE:
=============
Once transferred to the floor she was started on weight based 
insulin - lantus and Humalog with meals. She was bridged to a 
new ___ insulin pump the next day which was programmed by 
the ___ team

TRANSITIONAL ISSUES
===================
[ ] Pt to follow up with outpatient endocrinologist

>30 min spent on discharge planning including face to face time 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 75 mg PO DAILY 
2. Cilostazol 100 mg PO BID 
3. FLUoxetine 40 mg PO DAILY 
4. olmesartan 20 mg oral DAILY 
5. Omeprazole 20 mg PO DAILY 
6. risedronate 35 mg oral 1X/WEEK 
7. Simvastatin 20 mg PO QPM 
8. Aspirin 325 mg PO DAILY 
9. Calcium Citrate + D (calcium citrate-vitamin D3) 315-200 
mg-unit oral BID 
10. Multivitamins 1 TAB PO DAILY 
11. Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)
Target glucose: 80-180

12. FoLIC Acid 1 mg PO DAILY 
13. Zinc Sulfate 50 mg PO DAILY 
14. PreserVision AREDS-2 (vit C,E-Zn-coppr-lutein-zeaxan) 
250-200-40-1 mg-unit-mg-mg oral DAILY 
15. Fish Oil (Omega 3) 1000 mg PO BID 

 
Discharge Medications:
1.  Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)
Target glucose: 80-180
 
2.  Aspirin 325 mg PO DAILY  
3.  BuPROPion 75 mg PO DAILY  
4.  Calcium Citrate + D (calcium citrate-vitamin D3) 315-200 
mg-unit oral BID  
5.  Cilostazol 100 mg PO BID  
6.  Fish Oil (Omega 3) 1000 mg PO BID  
7.  FLUoxetine 40 mg PO DAILY  
8.  FoLIC Acid 1 mg PO DAILY  
9.  Multivitamins 1 TAB PO DAILY  
10.  olmesartan 20 mg oral DAILY  
11.  Omeprazole 20 mg PO DAILY  
12.  PreserVision AREDS-2 (vit C,E-Zn-coppr-lutein-zeaxan) 
250-200-40-1 mg-unit-mg-mg oral DAILY  
13.  risedronate 35 mg oral 1X/WEEK  
14.  Simvastatin 20 mg PO QPM  
15.  Zinc Sulfate 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
DKA
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the ICU for management of DKA. We treated 
you with an insulin drip and transitioned you to your home 
insulin pump. Please follow up with your endocrinologist as an 
outpatient. 
 
Followup Instructions:
___